US07902187B2
2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-6-(piperidine-1-carbonyl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
To a solution of 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purine-6-carboxylic acid (25 mg, 0.063 mmol) in THF (2 mL) at 0° C. was added piperidine (8 mg, 0.09 mmol) and triethyl amine (0.052 mL, 0.37 mmol), followed by a solution of triphenylphosphine (0.056 mL, 0.18 mmol) in ethyl acetate. The reaction mixture was allowed to reach room temperature and stirred for 24 h. The solvent was evaporated and a saturated solution of sodium bicarbonate was added to the residue. The solid formed was filtered and dried to give the desired compound as a white solid. Yield: 10 mg, 34%. 1H NMR (400 MHz, DMSO-d6) δ, ppm: 11.89 (s, 1H), 8.20 (d, J=8.5 Hz, 1H), 7.82 (dd, J=4.8, 4.8 Hz, 1H), 7.24 (t, J=6.94 Hz, 1H), 4.58 (m, 1H), 4.03 (t, J=2.2 Hz, 2H), 3.68 (m, 2H), 3.68-3.48 (m, 4H), 2.64-2.55 (m, 2H), 1.79 (d, J=11.6 Hz, 2H), 1.66 (m, 4H), 1.55 (m, 2H); LCMS (EI) m/z 466 (MH)+.

reactant | 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-9-(tetrahydro-2H-pyran-4-yl)-8,9-dihydro-7H-purine-6-carboxylic acid | 0.063 mmol, 25 mg | FC=1C=CC2=C(N(C=N2)C2=NC(=C3NC(N(C3=N2)C2CCOCC2)=O)C(=O)O)C1 | C18H15FN6O4
reactant | piperidine | 0.09 mmol, 8 mg | N1CCCCC1 | C5H11N
reactant | triethyl amine | 0.37 mmol, 0.052 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.18 mmol, 0.056 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-6-(piperidine-1-carbonyl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | FC=1C=CC2=C(N(C=N2)C2=NC(=C3NC(N(C3=N2)C2CCOCC2)=O)C(=O)N2CCCCC2)C1 | C23H24FN7O3
